US05879657
Methyl 3-Azidomethyl-5-nitrobenzoate
3-Carbomethoxy-5-nitrobenzyl methanesulfonate (300.0 g, 1.04 mol) and sodium azide (81.0 g, 1.25 mol) were suspended in DMF (1700 ml) and stirred at room temperature for 5 hours. The reaction was diluted with ethyl acetate (2000 ml), washed with 1000 ml portions of H2O (2×) and saturated NaCl (1×), dried (MgSO4), and concentrated under reduced pressure. The resulting amber syrup was dried under vacuum at 40° C. to yield the title compound as a tan solid (226.5 g, 92%). 1H NMR (CDCl3): 8.60 (s, 1H), 8.26 (s, 1H), 8.20 (s, 1H), 4.52 (s, 2H), 3.88 (s, 3H); MP=44°-46° C.

reactant | 3-Carbomethoxy-5-nitrobenzyl methanesulfonate | 1.04 mol, 300.0 g | CS(=O)(=O)OCC1=CC(=CC(=C1)[N+](=O)[O-])C(=O)OC | C10H11NO7S
reactant | sodium azide | 1.25 mol, 81.0 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 1700 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 2000 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 3-Azidomethyl-5-nitrobenzoate | 226.5 g, 92% | N(=[N+]=[N-])CC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C9H8N4O4
